US04734458
Illustration of the preparation of N,N'-dimethyl-N,N'- bis(p-chloromethylphenyl) urea
A solution of 10 g N,N'-dimethyl-N,N'-bis(p-hydroxymethylphenyl) urea in 250 ml CHCl3 was stirred vigorously for two hours with 250 ml conc. HCl. The layers were separated, and the organic phase was washed with dilute HCl, dried, and stripped to give a yellow oil. Trituration with hexane caused the product to crystallize. Filtration, washing with hexane, and air drying gave 3.5 g of a fluffy-white crystalline solid which was pure by TLC, m.p. 72°-73° C.

reactant | N,N'-dimethyl-N,N'-bis(p-hydroxymethylphenyl) urea | 10 g | CN(C(=O)N(C1=CC=C(C=C1)CO)C)C1=CC=C(C=C1)CO | C17H20N2O3
reactant | HCl | 250 ml | Cl | ClH
reactant | hexane | CCCCCC | C6H14
reactant | CHCl3 | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N'-dimethyl-N,N'- bis(p-chloromethylphenyl) urea | 3.5 g | CN(C(=O)N(C1=CC=C(C=C1)CCl)C)C1=CC=C(C=C1)CCl | C17H18Cl2N2O
